US07709471B2
2-methoxy-N′-(2-pyrrolidin-1-ylethyl)benzene-1,4-diamine
To a stirred solution of 4-fluoro-2-methoxy-1-nitro-benzene (Fluorochem; 2.57 g; 15 mmol) in DMA was 2-pyrrolidin-1-ylethanamine (Aldrich; 1.88 g, 16.5 mmol) followed by DIPEA (2.97 mL, 18 mmol). The mixture was heated at 80° C. for 20 hours, then cooled to room temp. The mixture was concentrated in vacuo, dissolved in DCM and purified by SCX (50 g SCX 2 column). The product was eluted from the column with 7N ammonia in methanol, concentrated in vacuo to give the title compound (53 mg) which was dissolved in Methanol as a 0.05 mmol solution and reduced using an H-cube hydrogenator. 10% Pd/C catalyst, 1 bar hydrogen (full hydrogen setting), 3 mL/min flow-rate at 50° C. The resultant solution was concentrated in vacuo, and the resultant material purified by column chromatography, eluting with 0-10% ammonia/methanol in DCM, to give the title compound as a solid.

reactant | 4-fluoro-2-methoxy-1-nitro-benzene | 15 mmol, 2.57 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | 2-pyrrolidin-1-ylethanamine | 16.5 mmol, 1.88 g | N1(CCCC1)CCN | C6H14N2
reactant | DIPEA | 18 mmol, 2.97 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 2-methoxy-N′-(2-pyrrolidin-1-ylethyl)benzene-1,4-diamine | 53 mg | COC1=C(C=CC(=C1)NCCN1CCCC1)N | C13H21N3O
